US20010027196A1
Following the method of Rudorf and Augustin (J. Prakt. Chem. 1978, 320, 576), a solution of 15.9 g (63.9 mmol) 2-benzoyl-3,3-bis(methylthio)acrylonitrile, 9.36 g (76.7 mmol) guanidine nitrate and 22.3 ml (160 mmol) triethylamine in 200 ml DMF was heated at reflux for 6 h. The reaction mixture was then cooled to room temperature. On addition of 300 ml water, a precipitate appeared which was collected by filtration and washed with water to afford 12.7 g (86%) 2-amino-4-(methylthio)-6-phenyl-pyrimidine-5-carbonitrile as a sand-coloured solid. EI-MS m-e (%): 242 (M+, 32), 241 ([M—H]+, 100).

reactant | 2-benzoyl-3,3-bis(methylthio)acrylonitrile | 63.9 mmol, 15.9 g | C(C1=CC=CC=C1)(=O)C(C#N)=C(SC)SC | C12H11NOS2
reactant | guanidine nitrate | 76.7 mmol, 9.36 g | [N+](=O)(O)[O-].NC(=N)N
reactant | triethylamine | 160 mmol, 22.3 ml | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-(methylthio)-6-phenyl-pyrimidine-5-carbonitrile | 12.7 g, 86% | NC1=NC(=C(C(=N1)SC)C#N)C1=CC=CC=C1 | C12H10N4S
